US08193361B2
In a similar procedure, 3-phenoxyphenol was reacted with 2-chloro-2-methylthio-N-(2-methylpent-3-yn-2-yl)acetamide to give 2-(3-phenoxyphenoxy)-2-methylthio-N-(2-methylpent-3-yn-2-yl)acetamide (Compound No. 4 of Table 1).

reactant | 3-phenoxyphenol | O(C1=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O2
reactant | 2-chloro-2-methylthio-N-(2-methylpent-3-yn-2-yl)acetamide | ClC(C(=O)NC(C)(C#CC)C)SC | C9H14ClNOS
product | 2-(3-phenoxyphenoxy)-2-methylthio-N-(2-methylpent-3-yn-2-yl)acetamide | O(C1=CC=CC=C1)C=1C=C(OC(C(=O)NC(C)(C#CC)C)SC)C=CC1 | C21H23NO3S
